US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[2-(1,3-thiazol-2-yl)-3-pyridyl]ethyl]piperidine
150 mg of 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-[2-[((trifluoromethyl)sulfonyl]oxy]-3-pyridyl]ethyl]piperidine, 180 mg of 2-(tributylstannyl)thiazole and 20 mg of tetrakis(triphenylphosphine)palladium were suspended in 4 ml of toluene, and the mixture was heated under reflux for 2 hours under nitrogen flow. The solvent was evaporated, and the residue was purified by NH form silica gel column chromatography (ethyl acetate:hexane=1:4), to give 39 mg of the title compound as a colorless oil.

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-[2-[((trifluoromethyl)sulfonyl]oxy]-3-pyridyl]ethyl]piperidine | 150 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC=1C(=NC=CC1)OS(=O)(=O)C(F)(F)F | C20H24F3N3O4S
reactant | 2-(tributylstannyl)thiazole | 180 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[2-(1,3-thiazol-2-yl)-3-pyridyl]ethyl]piperidine | 39 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC=1C(=NC=CC1)C=1SC=CN1 | C22H26N4OS
